US05958942
iii) Synthesis of 4,5-dihydro-4-(4-pentafluoropropion amidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one
To a solution of 5.00 g (8.2 mmol) of 3-trichloro acetyl-5-(N-tert-butoxycarbonyl-N-(4-pentafluoropropion amidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine in 100 ml of ethanol was added 3.4 ml (41.0 mmol) of 12N hydrochloric acid. The mixture was stirred for one hour at room temperature. The solvent and an excess volume of hydrochloric acid were distilled off under reduced pressure. The residue was dissolved in a mixture of 50 ml of purified water and 50 ml of ethanol. The solution was neutralized with 2N aqueous solution of sodium hydroxide. This solution was extracted with 150 ml of dichloromethane. The organic layer was washed with 150 ml of a saturated aqueous saline solution, dried over magnesium sulfate, and distilled off the solvent under reduced pressure. The residue was purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1) to afford 2.11 g of the desired compound (66.1%, a pale yellow solid).

reactant | 3-trichloro acetyl-5-(N-tert-butoxycarbonyl-N-(4-pentafluoropropion amidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 8.2 mmol, 5.00 g | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(CCCCNC(C(C(F)(F)F)(F)F)=O)C(=O)OC(C)(C)C)(Cl)Cl | C22H24Cl3F5N4O4
reactant | hydrochloric acid | 41.0 mmol, 12N, 3.4 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(4-pentafluoropropion amidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one | 2.11 g | FC(C(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(C(F)(F)F)F | C16H15F5N4O2
